US06891066B2
3,4-difluoro-2-(2-fluoro-4-iodoanilino)-N-(2-hydroxyethoxy)benzamide which can be prepared according to the procedure in PCT Publication No. WO 00/41505, and 3-methyl-1-pentyn-3-ol were reacted in the presence of CuI and (PhP3)2PdCl2 by the general procedure of Example 1, Step A, and the mixture stirred at RT for 4 h. The reaction mixture was diluted with 50% Et2O/MeOH and filtered through Celite®. The filtrate was concentrated under reduced pressure and further purified by flash chromatography on silica (CH2Cl2—10% MeOH/CH2Cl2 gradient elution) to give 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methyl-1-pentynyl)anilino]-N-(2-hydroxyethoxy)benzamide (77%) as a white solid; m.p. (CH2Cl2/Hexane) 127-131° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.79 (br s, 1 H), 8.79 (br s, 1 H), 7.45-7.39 (m, 1 H), 7.28-7.18 (m, 2 H), 7.07 (dd, J=8.4, 1.5 Hz, 1 H), 6.79 (ddd, J=8.7, 8.7, 4.6 Hz, 1 H), 5.31 (br s, 1 H), 4.71 (br s, 1 H), 3.86 (t, J=4.7 Hz, 2 H), 3.57 (t, J=4.7 Hz, 2 H), 1.68-1.57 (m, 2 H), 1.40 (s, 3 H), 0.98 (t, J=7.4 Hz, 3 H). Anal. Calcd for C21H21F3N2O4: C, 59.7; H, 5.0; N, 6.6. Found C, 59.9; H, 5.1; N, 6.9.

reactant | 3,4-difluoro-2-(2-fluoro-4-iodoanilino)-N-(2-hydroxyethoxy)benzamide | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)I)F | C15H12F3IN2O3
reactant | 3-methyl-1-pentyn-3-ol | CC(C#C)(CC)O | C6H10O
solvent | Et2O MeOH | CCOCC.CO
catalyst | CuI | [Cu]I
product | 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methyl-1-pentynyl)anilino]-N-(2-hydroxyethoxy)benzamide | 77% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C#CC(CC)(C)O)F | C21H21F3N2O4
